US04540699
2-(2-Dimethylaminomethyl-5-furylmethylthio)ethylamine (4.00 g) and 2-nitroamino-5-[1-(2-dimethylaminoethyl)-2-oxopyridin-4-yl-methyl]pyrimidin-4-one (7.14 g) were refluxed in pyridine (50 ml) for 24 hours. The reaction mixture was evaporated under reduced pressure and the residue subjected to medium pressure column chromatography (Kieselgel 60 silica mesh - main column) using ethyl acetate:methanol (80:20→70:30) gradient elution. The fractions containing the desired title product were evaporated in vacuo and treated with maleic acid (1.79 g) in isopropanol. The solvent was evaporated under reduced pressure and the residue washed with acetone and cold isopropanol. On standing at 5° C. the residue crystallised from ethanol-methanol to yield 2-[2-(2-dimethylaminomethyl-5-furylmethylthio)ethylamino]-5-[1-(2-dimethylaminoethyl)-2-oxopyridin-4-ylmethyl]pyrimidin-4-one as a maleate salt (0.79 g), m.p. 123°-126° C.

reactant | 2-(2-Dimethylaminomethyl-5-furylmethylthio)ethylamine | 4.00 g | CN(C)CC=1OC(=CC1)CSCCN | C10H18N2OS
reactant | 2-nitroamino-5-[1-(2-dimethylaminoethyl)-2-oxopyridin-4-yl-methyl]pyrimidin-4-one | 7.14 g | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC1=CC(N(C=C1)CCN(C)C)=O | C14H18N6O4
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 2-[2-(2-dimethylaminomethyl-5-furylmethylthio)ethylamino]-5-[1-(2-dimethylaminoethyl)-2-oxopyridin-4-ylmethyl]pyrimidin-4-one | CN(C)CC=1OC(=CC1)CSCCNC1=NC=C(C(N1)=O)CC1=CC(N(C=C1)CCN(C)C)=O | C24H34N6O3S
